US08304407B2
To a CH2Cl2 (5 mL) solution containing (1E,4E)-ethyl 2-amino-8-bromo-3H-benzo[b]azepine-4-carboxylate (198 mg, 0.640 mmol) was added Boc anhydride (140 mg, 0.640 mmol). The solution was stirred at room temperature for 72 hours. The reaction was concentrated to dryness and purified by column chromatography (Biotage 12m, 4:1 hexanes:EtOAc) to provide (1E,4E)-ethyl-8-bromo-2-(tert-butoxycarbonyl)-3H-benzo[b]azepine-4-carboxylate (245 mg, 94% yield) as a white solid.

reactant | (1E,4E)-ethyl 2-amino-8-bromo-3H-benzo[b]azepine-4-carboxylate | 0.640 mmol, 198 mg | N/C=1/C\C(=C/C2=C(\N1)C=C(C=C2)Br)\C(=O)OCC | C13H13BrN2O2
reactant | Boc anhydride | 0.640 mmol, 140 mg | CC(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
solvent | CH2Cl2 | 5 mL | C(Cl)Cl | CH2Cl2
product | (1E,4E)-ethyl-8-bromo-2-(tert-butoxycarbonyl)-3H-benzo[b]azepine-4-carboxylate | 245 mg, 94% yield | C(C)OC(=O)/C/1=C/C2=C(\N=C(/C1)\C(=O)OC(C)(C)C)C=C(C=C2)Br | C18H20BrNO4
